US07148226B2
3-[(6-chloro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-6-cyclopentyl-4-hydroxy-6-{2-[4-hydroxy-3-(2,2,2-trifluoroethyl)phenyl]ethyl}-5,6-dihydro-2H-pyran-2-one
6-chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (0.131 g, 0.72 mmol) was added to a solution of example A(228) 6-cyclopentyl-6-{2-[4-hydroxy-3-(2,2,2-trifluoroethyl)phenyl]ethyl}dihydro-2H-pyran-2,4(3H)-dione (0.230 g, 0.60 mmol) in MeOH (10 mL). The reaction mixture was stirred for 15 mins and then treated with borane-dimethylamine complex (53 mg, 0.9 mmoL). After 15 hours the reaction mixture was quenched with concentrated HCl, and concentrated to a residual oil. Purification by flash column chromatography (EtOAc then 0%–5% MeOH in CH2Cl2) gave the product as a white solid (17 mg). 1H NMR (DMSO): δ 1.30–1.80 (brm, 8H), 2.08–2.18 (brm, 3H), 2.74 (s, 2H), 2.99(m, 2H); 3.15 (m, 2H), 3.47 (m, 3 H), 6.81 (m, 2H), 7.00(s, 1H), 8.76 (s, 1H), 8.82 (s, 1H). Anal. Calcd. For C26H26O4N4ClF3: C, 56.68; H, 4.75; N, 10.17. Found: C, 56.50; H, 4.69; N, 10.20.

reactant | 6-chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 0.72 mmol, 0.131 g | ClC=1C=NC=2N(C1)N=C(N2)C=O | C6H3ClN4O
reactant | 6-cyclopentyl-6-{2-[4-hydroxy-3-(2,2,2-trifluoroethyl)phenyl]ethyl}dihydro-2H-pyran-2,4(3H)-dione | 0.60 mmol, 0.230 g | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=C(C=C1)O)CC(F)(F)F | C20H23F3O4
solvent | MeOH | 10 mL | CO | CH4O
product | 3-[(6-chloro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-6-cyclopentyl-4-hydroxy-6-{2-[4-hydroxy-3-(2,2,2-trifluoroethyl)phenyl]ethyl}-5,6-dihydro-2H-pyran-2-one | 17 mg | ClC=1C=NC=2N(C1)N=C(N2)CC=2C(OC(CC2O)(CCC2=CC(=C(C=C2)O)CC(F)(F)F)C2CCCC2)=O | C26H26ClF3N4O4
